US06528510B1
5-Hydroxy-6-methyl-5-[2-(4-methyl-thiazol-5-yl)-ethyl]-3-oxo-heptanoic acid methyl ester
The title compound was prepared as described in General Method 6 from 1.00 g (8.61 mmol) of methyl acetoacetate, 0.38 g (9.50 mmol) of sodium hydride, 4.5 mL of 2.1 M nBuLi (9.45 mmol), and 1.53 g (7.75 mmol) of 4-methyl-1-(4-methyl-thiazol-5-yl)-pentan-3-one (prepared in Example C-2.) The crude compound was used without purification in the next step.

reactant | methyl acetoacetate | 8.61 mmol, 1.00 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydride | 9.50 mmol, 0.38 g | [H-].[Na+]
reactant | nBuLi | 9.45 mmol, 2.1 M, 4.5 mL | [Li]CCCC
reactant | 4-methyl-1-(4-methyl-thiazol-5-yl)-pentan-3-one | 7.75 mmol, 1.53 g | CC(C(CCC1=C(N=CS1)C)=O)C | C10H15NOS
product | 5-Hydroxy-6-methyl-5-[2-(4-methyl-thiazol-5-yl)-ethyl]-3-oxo-heptanoic acid methyl ester | COC(CC(CC(C(C)C)(CCC1=C(N=CS1)C)O)=O)=O | C15H23NO4S
